US05925596
N-(4,6-Dimethoxypyrimidin-2-ylaminocarbonyl)-5-(N-methyl-N-methanesulfonylaminomethyl)-2-methanesulfonylbenzenesulfonamide
0.56 ml (3.7 mmol) of DBU is added dropwise to a suspension of 1.33 g (3.7 mmol) of 5-(N-methyl-N-methanesulfonylaminomethyl)-2-methanesulfonylbenzenesulfonamide and 1.03 g (3.7 mmol) of phenyl N-(4,6-dimethoxypyrimidin-2-yl)carbamate in 20 ml of acetonitrile. After 2 h, the mixture is diluted with water and diethyl ether and acidified to pH 1-2 with HCl and the precipitated product is filtered off, washed with water and diethyl ether and dried; yield: 1.78 g (89.5%) of N-(4,6-dimethoxypyrimidin-2-ylaminocarbonyl)-5-(N-methyl-N-methanesulfonylamiinomethyl)-2-methanesulfonylbenzenesulfonamide of melting point 205-210° C. (decomposition).

reactant | DBU | 3.7 mmol, 0.56 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 5-(N-methyl-N-methanesulfonylaminomethyl)-2-methanesulfonylbenzenesulfonamide | 3.7 mmol, 1.33 g | CN(S(=O)(=O)C)CC=1C=CC(=C(C1)S(=O)(=O)N)S(=O)(=O)C | C10H16N2O6S3
reactant | phenyl N-(4,6-dimethoxypyrimidin-2-yl)carbamate | 3.7 mmol, 1.03 g | COC1=NC(=NC(=C1)OC)NC(OC1=CC=CC=C1)=O | C13H13N3O4
reactant | HCl | Cl | ClH
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-(4,6-Dimethoxypyrimidin-2-ylaminocarbonyl)-5-(N-methyl-N-methanesulfonylaminomethyl)-2-methanesulfonylbenzenesulfonamide | COC1=NC(=NC(=C1)OC)NC(=O)NS(=O)(=O)C1=C(C=CC(=C1)CN(S(=O)(=O)C)C)S(=O)(=O)C | C17H23N5O9S3
